US08492378B2
1-methyl-2-oxo-2-[2-[[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]carbonyl]hydrazino]ethyl acetate
In the same manner as in Reference Example 1 and using (±)-2-acetoxypropionic acid instead of benzothiazole-6-carboxylic acid and 3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-carbohydrazide instead of tert-butyl carbazate, the title compound (yield 48%) was obtained as colorless crystals.

reactant | (±)-2-acetoxypropionic acid | C(C)(=O)OC(C(=O)O)C | C5H8O4
reactant | 3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-carbohydrazide | FC(OC=1C=C(C=CC1)C1=COC2=C1C=C(C=C2)C(=O)NN)(F)F | C16H11F3N2O3
product | 1-methyl-2-oxo-2-[2-[[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]carbonyl]hydrazino]ethyl acetate | yield 48% | C(C)(=O)OC(C(NNC(=O)C=1C=CC2=C(C(=CO2)C2=CC(=CC=C2)OC(F)(F)F)C1)=O)C | C21H17F3N2O6
